US08877408B2
Ethyl butylcarbamate
In a 250 ml round-bottomed flask, 0.02 g of Desmorapid Z, 34.1 g of n-butyl isocyanate were initially introduced and heated to 60° C. Thereafter, 15.9 g of ethanol were added dropwise and the mixture was further kept at 60° C. until the isocyanate content had fallen below 0.1%. Thereafter, cooling was effected and the product was obtained as a clear liquid.

reactant | Desmorapid | 0.02 g | CN(C)CCCN1CN(CN(C1)CCCN(C)C)CCCN(C)C | C18H42N6
reactant | n-butyl isocyanate | 34.1 g | C(CCC)N=C=O | C5H9NO
reactant | isocyanate | [N-]=C=O
solvent | ethanol | 15.9 g | C(C)O | C2H6O
product | Ethyl butylcarbamate | C(CCC)NC(OCC)=O | C7H15NO2
